US08003804B2
U.S. Pat. No. 4,978,672 discloses 4-[alpha-(4-cyanophenyl)-1-(1,2,4-triazolyl)-methyl]benzonitrile and a process for its preparation comprising reacting 4-bromomethyl benzonitrile with 1,2,4-triazole to yield 4-[1-(1,2,4-triazol-1-yl)methyl]benzonitrile. 4-[1-(1,2,4-triazol-1-yl)methyl]benzonitrile is then reacted with 4-fluorobenzonitrile to give 4-[1-(4-cyanophenyl)-1-(1,2,4-triazol-1-yl)methyl]benzonitrile (letrozole).

reactant | 4-[1-(1,2,4-triazol-1-yl)methyl]benzonitrile | N1(N=CN=C1)CC1=CC=C(C#N)C=C1 | C10H8N4
reactant | 4-fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
product | 4-[1-(4-cyanophenyl)-1-(1,2,4-triazol-1-yl)methyl]benzonitrile | C(#N)C1=CC=C(C=C1)C(N1N=CN=C1)C1=CC=C(C#N)C=C1 | C17H11N5
